US07592358B2
5-(4-chlorophenyl)-3-methyl-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine
2.5 n-L of 2M aqueous sodium carbonate solution and 15 mg (0.013 mmol) of tetrakis(triphenylphosphane)palladium were added under argon to a suspension of 130 mg (0.255 mmol) of 3-bromo-5-(4-chlorophenyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine and 18.9 mg (0.306 mmol) of methylboric acid in 5 mL of 1,4-dioxane and the mixture was refluxed for 5 hours. A further 18.9 mg (0.306 mmol) of methylboric acid was added and again the mixture was refluxed for 2 hours. The reaction mixture was exhaustively extracted with EtOAc, the combined organic phases were washed with saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, and evaporated down in vacuo. The residue was purified by HPLC-MS (Symmetry C18, gradient 0.15% formic acid in water/acetonitrile 10/90→50/50 v/v) and the product fractions were lyophilized. Product fraction 1: Yield: 12 mg (11% of theoretical); C28H29ClN2O (M=444.995); calc.: molpeak (M+H)+: 445/447 (Cl); found: molpeak (M+H)+: 445/447 (Cl); HPLC-MS: 4.00 minutes (method E).

reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-bromo-5-(4-chlorophenyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine | 0.255 mmol, 130 mg | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C | C27H26BrClN2O
reactant | methylboric acid | 0.306 mmol, 18.9 mg | COB(O)O | CH5BO3
reactant | methylboric acid | 0.306 mmol, 18.9 mg | COB(O)O | CH5BO3
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-(4-chlorophenyl)-3-methyl-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C)C | C28H29ClN2O
